US04946854
A solution of 12 g of fuming HNO3 (d=1.52) in 11 ml of concentrated H2SO4 is added at room temperature over a period of 30 minutes to a solution of 30.4 g of 2,6-dichlorobenzoic acid amide in 60 ml of concentrated H2SO4 (d=1.83). After stirring for 2 hours at room temperature, the reaction mixture is added to ice/H2O and adjusted to a pH of ~ 6 with 30% NaOH and the precipitating crystals are isolated by filtration, affording 28.7 g of 2,6-dichloro-3-nitrobenzoic acid amide (m.p. 163°-165° C.).

reactant | HNO3 | 12 g | [N+](=O)(O)[O-] | HNO3
reactant | 2,6-dichlorobenzoic acid amide | 30.4 g | ClC1=C(C(=O)N)C(=CC=C1)Cl | C7H5Cl2NO
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 11 ml | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 60 ml | OS(=O)(=O)O | H2O4S
product | 2,6-dichloro-3-nitrobenzoic acid amide | 28.7 g | ClC1=C(C(=O)N)C(=CC=C1[N+](=O)[O-])Cl | C7H4Cl2N2O3
